US07939533B2
c) (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2-hydroxymethyl-4-oxo-pyrrolidin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide
A solution of 60 mg (0.094 mmol) (S)-acetic acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-oxo-pyrrolidin-2-ylmethyl ester and a catalytic amount of sodium methylate in 2 ml methanol was stirred at room temperature for 30 min. The reaction mixture was diluted with water and brine and extracted with three portions of dichloromethane. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 13 mg (23%) of the title compound as a light brown solid.

reactant | (S)-acetic acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-oxo-pyrrolidin-2-ylmethyl ester | 0.094 mmol, 60 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1[C@@H](CC(C1)=O)COC(C)=O)C1=C(C=CC=C1)C)C)(C)C)(F)F | C32H31F6N3O4
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2-hydroxymethyl-4-oxo-pyrrolidin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 13 mg, 23% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)N1[C@@H](CC(C1)=O)CO)(C)C)(F)F | C30H29F6N3O3
